Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PRIMARY CARE PHYSICIAN:   ___ 
CHIEF COMPLAINT:  CP

HISTORY OF PRESENT ILLNESS:  
___ with PMHx of HTN presents with chest pressure. Pt reports 
chest pain that began at 6:30 ___, left sided chest 
pain/pressure. No radiation of pain at this time, previously 
with radiation to her back. Rates pain ___. She reports it has 
been constant until this AM when it improved for a short 
duration but then returned. 

She reports recent upper respiratory illness with productive 
cough one month ago, now improving. She reports DOE, but denies 
SOB at rest or orthopnea. She denies abdominal pain, n/v/d, f/c. 
She denies history of cancer, blood clots. Of note, she reports 
midline headache, no visual changes. Describes headache as sharp 
and constant with radiation to the back of her head. States pain 
feels similar to prior headaches/migraines. Also, she reports 
poor compliance with medication. 

Cardiology saw the patient in the ED and felt that she had a low 
risk stress. Recommended d/c with cards f/u, stop amlodipine, 
start Lipitor 80, ASA 81 and metop 25 XL.

In the ED, initial vital signs were: T 97.1 P 65 BP 147/76 R 18 
O2 sat.  99%
Labs were notable for Scr 0.6, x2 troponin negative
Patient was given ASA 324, Topamax 25mg, citalopram 10mg, 
lisinopril 30mg, APAP 650mg, ibuprofen 600mg, fioricet 2tab, 
metop suc 25mg
The patient underwent stress testing which showed no anginal 
type symptoms with ischemic EKG changes. ECHO showed fair 
functional exercise capacity. nondiagnostic ECG changes with 2D 
echocardiographic evidence of inducible inferior posterior 
ishemia at achieved workload.  

On Transfer Vitals were:   98.3 64 113/56 21 99% RA 

REVIEW OF SYSTEMS:  
(+)  as per HPI
(-) fever, chills, night sweats, vision changes, rhinorrhea, 
congestion, sore throat, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
ATYPICAL CHEST PAIN                                             
DEPRESSION                                                      
GLUCOSE INTOLERANCE                                             
HEADACHE                                                        
HYPERTENSION                                                    
L BREAST THICKENING                                             
NEPHROLITHIASIS                                                 
R OVARIAN CYST                                                  
S/P BLADDERNECK SUSPENSION                                      
SECONDARY AMENORRHEA                                            
POLYNEUROPATHY                                                  
PRE-DIABETES                                                    
DEGENERATIVE SPINE ARTHRITIS                                    
H/O ABNL PAP                                                    
H/O CHLAMYDIA AND GONORRHEA
PCOS       
SCIATICA        
 
Social History:
___
Family History:
Mother had her first MI at ___. 
Maternal Grandmother: died MI
Son: history of an arrhythmia sine age ___ and syncopal episodes, 
unclear etiology. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  98.6 |115/60| 20| 58
General: AOx3, comfortable lying in bed.  
HEENT:  EOMI, PERRLA, no JVD
CV:  RRR, no m/r/g
Lungs:  CTAB, no wheezes/crackles
Abdomen:  Soft, non-distended, non-tender to palpation
Ext:  WWP, non edematous
Neuro:  CN ___ grossly intact. Strength ___ in b/l ___. 
Sensation intact to light touch in b/l ___

DISCHARGE PHYSICAL EXAM: 
======================== 
Vitals:  98.7| 114-123/70s| 58-62| 18| 100% on RA
General: AOx3, comfortable lying in bed.  
HEENT:  EOMI, PERRLA, no JVD
CV:  RRR, no m/r/g
Lungs:  CTAB, no wheezes/crackles
Abdomen:  Soft, non-distended, non-tender to palpation
Ext:  WWP, non edematous
Neuro:  CN ___ grossly intact. Strength ___ in b/l ___. 
Sensation intact to light touch in b/l ___
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 10:50PM BLOOD WBC-8.6 RBC-4.45 Hgb-11.7 Hct-37.6 MCV-85 
MCH-26.3 MCHC-31.1* RDW-14.4 RDWSD-44.0 Plt ___
___ 10:50PM BLOOD Neuts-49.9 ___ Monos-6.2 Eos-3.6 
Baso-0.6 Im ___ AbsNeut-4.28 AbsLymp-3.39 AbsMono-0.53 
AbsEos-0.31 AbsBaso-0.05
___ 10:50PM BLOOD Glucose-104* UreaN-14 Creat-0.6 Na-141 
K-3.7 Cl-105 HCO3-27 AnGap-13

===============
PERTINENT LABS
===============
___ 10:50PM BLOOD cTropnT-<0.01
___ 05:20AM BLOOD cTropnT-<0.01

======= 
IMAGING
=======
CHEST (PA & LAT) Study Date of ___ 2:28 AM  
No acute intrathoracic abnormality. 

Stress Study Date of ___
INTERPRETATION: This ___ year old woman with BMI of 43 and PMH of 

poorly controlled HTN and family hx of CAD was referred to the 
lab from 
the ER following negative serial cardiac biomarkers for 
evaluation of 
chest discomfort. She exercised for 9.5 minutes of modified 
___ 
protocol. The test stopped per patient request as she stated her 
legs 
are giving up. The peak estimated MET capacity is 7.6 which 
represents a 
fair exercise tolerance for her age. Prior to exercise she 
reported left 
side localized chest discomfort which subsided by exercise and 
was 
completely absent at 7 minutes of exercise. She denied any other 
chest, 
arm, neck or back discomforts throughout the test. In the 
setting of 
NSSTTW in baseline EKG at 8.75 minutes of exercise a scopping ST 

segments upsloping were noticed in the inferolateral leads. 
These ST 
segments changes were resolved by 3 minute post exercise. Rhythm 
was 
sinus with rare isolated APBs. Appropriate blood pressure 
response with 
blunted HR response to exercise. 
   
IMPRESSION: No anginal type symptoms with ischemic EKG changes. 
Echo 
report sent separately. 

Stress Echo (Treadmill) Done ___ at 11:52:07 AM  
The patient exercised for 9 minutes and 30 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 127 bpm and a peak blood pressure of 182/70 mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents a fair exercise tolerance for age and gender. In 
response to stress, the ECG showed non-diagnostic ST changes 
(see exercise report for details). There were normal blood 
pressure and heart rate responses to stress. 

 Resting images were acquired at a heart rate of 60 bpm and a 
blood pressure of 132/80 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Resting E/e' is <=8 suggesting PCWP<12mmHg. Doppler 
demonstrated no aortic stenosis, aortic regurgitation or 
significant mitral regurgitation or resting LVOT gradient. .

 Echo images were acquired within 29 seconds after peak stress 
at heart rates of 117 - 100 bpm. These demonstrated new regional 
dysfunction with hypokinesis of the inferior and posterior 
walls. The remaining segments augment appropriately. There was 
augmentation of right ventricular free wall motion. 
 
IMPRESSION: fair functional exercise capacity. nondiagnostic ECG 
changes with 2D echocardiographic evidence of inducible inferior 
posterior ishemia at achieved workload. 

 Compared with the prior study (images reviewed) of ___, 
inducible inferior posterior ischemia is now present.  

==============
DISCHARGE LABS
==============
___ 05:50AM BLOOD WBC-6.2 RBC-4.31 Hgb-11.4 Hct-36.5 MCV-85 
MCH-26.5 MCHC-31.2* RDW-14.4 RDWSD-44.3 Plt ___
___ 05:50AM BLOOD Glucose-89 UreaN-10 Creat-0.6 Na-139 
K-4.3 Cl-104 HCO3-26 AnGap-13
___ 05:50AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.___RIEF HOSPITAL COURSE 
======================
___ with PMHx HTN, pre-diabetes and atypical chest pain 
presenting for CP found to have low risk changes on stress 
testing admitted for persistence of CP.

#ATYPICAL CHEST PAIN: Patient with history of atypical chest 
pain. Troponins in ED negative x 2. CXR without acute 
abnormality. The patient underwent stress testing on ___ 
which showed no anginal type symptoms with ischemic EKG changes. 
ECHO with fair functional exercise capacity, nondiagnostic ECG 
changes with evidence of new inducible inferior posterior 
ischemia. Seen by cardiology in ED and felt to have low risk 
stress test, recommended discharge from ED with outpatient 
follow up. Given persistent chest pain, patient was admitted. 
Patient observed overnight with resolution of chest pain. Per 
cardiology, amlodipine was discontinued. Metoprolol 25, 
atorvastatin 80 mg initiated. Continued home ASA 81 mg

#HTN: Continued home lisinopril 30mg. D/c amlodipine as above

#Glucose intolerance: SFG qACHS, placed on gentle ISS, did not 
require any insulin during admission 

#Depression: Continued home citalopram

#Allergic rhinitis: Continued home cetirizine

#Chronic headaches: Continued home topiramate 25 mg qD. Did 
report significant headache in ED and initially on arrival to 
floor. Treated with acetaminophen, ibuprofen, fioricet x 2 in 
ED. Resolved overnight. 

TRANSITIONAL ISSUES
- Per cardiology, amlodipine 10 mg discontinue. Started on 
metoprolol 25 mg qD, atorvastatin 80 mg qD 

#CODE STATUS: Full Code 
#EMERGENCY CONTACT: Daughter (______
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Citalopram 10 mg PO DAILY 
3. Fluocinolone Acetonide 0.01% Solution 1 Appl TP TIW 
4. Hydrocortisone Cream 2.5% 1 Appl TP BID 
5. Lisinopril 30 mg PO DAILY 
6. Naproxen 500 mg PO Q8H:PRN HA 
7. Oxybutynin 5 mg PO QHS 
8. Sumatriptan Succinate 50 mg PO ONCE MR1 
9. Topiramate (Topamax) 25 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Cetirizine 10 mg PO DAILY 
3. Citalopram 10 mg PO DAILY 
4. Fluocinolone Acetonide 0.01% Solution 1 Appl TP TIW 
5. Hydrocortisone Cream 2.5% 1 Appl TP BID 
6. Lisinopril 30 mg PO DAILY 
7. Oxybutynin 5 mg PO QHS 
8. Topiramate (Topamax) 25 mg PO DAILY 
9. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
11. Sumatriptan Succinate 50 mg PO ONCE MR1 Duration: 1 Dose 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
1. Atypical chest pain

SECONDARY
1. HTN
2. Glucose intolerance
3. Depression
4. Allergic rhinitis
5. Chronic headaches  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted for 
chest pain. A thorough work up was completed including a stress 
test, and was reassuring. You were seen by the cardiology team 
and some changes were made to your medications.

Medication Changes
1. Please STOP taking amlodipine 10 mg daily
2. Please START taking metoprolol 25 mg daily
3. Please START taking atorvastatin 80 mg daily

Please follow up with you primary care physician and cardiology.

Wishing you well,

Your ___ Care Team 
 
Followup Instructions:
___